US07915267B2
ethyl 5-methyl-4-oxo-3,4-dihydroquinazoline-2-carboxylate
To a suspension of ethyl ((2-(aminocarbonyl)-3-methylphenyl)amino)(oxo)acetate (760 mg, 3.04 mmol) in ethanol (15 mL) was added dropwise sodium ethylate (20% ethanol solution, 1.14 g, 3.34 mmol) under ice-cooling, and the mixture was stirred at room temperature for 2 hr. 1N Hydrochloric acid (5 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was suspended in diisopropyl ether-ethanol, and the insoluble material was collected by filtration to give the title compound as a white powder (450 mg, 64%).

reactant | ethyl ((2-(aminocarbonyl)-3-methylphenyl)amino)(oxo)acetate | 3.04 mmol, 760 mg | NC(=O)C1=C(C=CC=C1C)NC(C(=O)OCC)=O | C12H14N2O4
reactant | sodium ethylate | 3.34 mmol, 1.14 g | CC[O-].[Na+]
reactant | Hydrochloric acid | 1N, 5 mL | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | ethyl 5-methyl-4-oxo-3,4-dihydroquinazoline-2-carboxylate | 450 mg, 64% | CC1=C2C(NC(=NC2=CC=C1)C(=O)OCC)=O | C12H12N2O3
